US05198452
By the use of 2.97 g of 2-[(E)-2-(3-aminophenyl)ethenyl]-6-[4-(4-butylphenyl)butylthio]methylpyridine, 1.6 g of anhydrous diethyl succinate, 0.85 g of sodium acetate and 10 ml of dimethoxyethane, the reaction was similarly carried out as Example 1(3). The obtained crystals were recrystallized from 50% an aqueous ethanol to give 2.4 g of 2-[(E)-2-(3-(3 carboxy-3-ethylvalerylamino)phenyl)ethenyl]-6-[4-(4-butylphenyl) butylthio]methylpyridine, melting at 150°-151° C. as white crystals.

reactant | 2-[(E)-2-(3-aminophenyl)ethenyl]-6-[4-(4-butylphenyl)butylthio]methylpyridine | 2.97 g | NC=1C=C(C=CC1)/C=C/C1=NC(=CC=C1)CSCCCCC1=CC=C(C=C1)CCCC | C28H34N2S
reactant | diethyl succinate | 1.6 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | sodium acetate | 0.85 g | C(C)(=O)[O-].[Na+]
reactant | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | 2-[(E)-2-(3-(3 carboxy-3-ethylvalerylamino)phenyl)ethenyl]-6-[4-(4-butylphenyl) butylthio]methylpyridine | 2.4 g | C(=O)(O)C(CC(=O)NC=1C=C(C=CC1)/C=C/C1=NC(=CC=C1)CSCCCCC1=CC=C(C=C1)CCCC)(CC)CC | C36H46N2O3S
